US09359336B2
To the solution of 1-(2-(2-amino-5-(2-(2-((tert-butyldimethylsilyl)oxy)ethyl)-2H-tetrazol-5-yl)pyridin-3-yl)benzo[b]thiophen-5-yl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea (60 mg, 0.087 mmol, 1 eq) in anhydrous tetrahydrofuran (2 mL) under nitrogen atmosphere at 0° C. was added dropwise a solution of tetrabutylammonium fluoride (1.0 M in THF, 0.26 mL, 3 eq). After the reaction was stirred at room temperature for 2 hours, it was partitioned between ethyl acetate and aqueous ammonium chloride. The organic layer was isolated, further washed with saturated aqueous sodium bicarbonate, brine, and dried with anhydrous sodium sulfate. The upper clear solution was decanted and concentrated down with silica gel. The mixture was subject to a gradient column chromatography (EtOAc-Hex 4:1 to MeOH-EtOAc 1:25) to yield 1-(2-{2-amino-5-[2-(2-hydroxyethyl)-2H-tetrazol-5-yl]pyridin-3-yl}-1-benzothien-5-yl)-3-[4-chloro-3-(trifluoromethyl)phenyl]urea as a white solid in the amount of 11 mg.

reactant | 1-(2-(2-amino-5-(2-(2-((tert-butyldimethylsilyl)oxy)ethyl)-2H-tetrazol-5-yl)pyridin-3-yl)benzo[b]thiophen-5-yl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | 0.087 mmol, 60 mg, 1 eq | NC1=NC=C(C=C1C1=CC2=C(S1)C=CC(=C2)NC(=O)NC2=CC(=C(C=C2)Cl)C(F)(F)F)C=2N=NN(N2)CCO[Si](C)(C)C(C)(C)C | C30H32ClF3N8O2SSi
reactant | tetrabutylammonium fluoride | 1.0 M, 0.26 mL, 3 eq | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-(2-{2-amino-5-[2-(2-hydroxyethyl)-2H-tetrazol-5-yl]pyridin-3-yl}-1-benzothien-5-yl)-3-[4-chloro-3-(trifluoromethyl)phenyl]urea | NC1=NC=C(C=C1C=1SC2=C(C1)C=C(C=C2)NC(=O)NC2=CC(=C(C=C2)Cl)C(F)(F)F)C=2N=NN(N2)CCO | C24H18ClF3N8O2S
